US04652564
A suspension of 3-(4-bromobutyl)-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)one (5 g.) in methylene chloride (350 ml.), in an atmosphere of nitrogen, was stirred at room temperature and to it was added triethylamine (4.1 ml.). The mixture was stirred at room temperature for 16 hrs. Water (300 ml.) was added and the aqueous layer was adjusted to pH 4.5 with hydrochloric acid. The organic layer was separated and the aqueous layer was back-extracted with methylene chloride. The combined organic layers were washed with water, dried (Na2SO4), filtered and evaporated to yield a solid which was recrystallized from isopropanol to yield 1'-phenylspiro[cyclopentane-1,3'-(1,8)naphthyridine]-2',4'-(1'H)dione, m.p. 178°-179° C.

reactant | 3-(4-bromobutyl)-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)one | 5 g | BrCCCCC=1C(N(C2=NC=CC=C2C1O)C1=CC=CC=C1)=O | C18H17BrN2O2
reactant | triethylamine | 4.1 ml | C(C)N(CC)CC | C6H15N
reactant | Water | 300 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | 1'-phenylspiro[cyclopentane-1,3'-(1,8)naphthyridine]-2',4'-(1'H)dione | C1(=CC=CC=C1)N1C(C2(C(C3=CC=CN=C13)=O)CCCC2)=O | C18H16N2O2
